US08198453B2
To a solution of 2-bromo-4-fluoro-1-methylbenzene (10.6 g, 0.056 mol) in anhydrous THF (150 mL) at −78° C. under nitrogen was added dropwise a solution of 2.5 M n-BuLi in hexane (22 mL, 0.056 mol). After stirring for 1 hr at −78° C., a solution of (R)-tert-butyl 3-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate (10 g, 0.037 mol) in anhydrous THF (120 mL) was added dropwise. After addition, the reaction mixture was allowed to warn to rt and stirred for 2 hr. The mixture was quenched with saturated NH4Cl (100 mL) solution and extracted with EtOAc (3×80 mL). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo to provide crude (R)-tert-butyl 3-(5-fluoro-2-methylbenzoyl)piperidine-1-carboxylate (10.5 g, yield 88%), which was used in the next step without purification.

reactant | 2-bromo-4-fluoro-1-methylbenzene | 0.056 mol, 10.6 g | BrC1=C(C=CC(=C1)F)C | C7H6BrF
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | hexane | 0.056 mol, 22 mL | CCCCCC | C6H14
reactant | (R)-tert-butyl 3-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate | 0.037 mol, 10 g | CON(C(=O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C | C13H24N2O4
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-(5-fluoro-2-methylbenzoyl)piperidine-1-carboxylate | 10.5 g, yield 88% | FC=1C=CC(=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C1)C | C18H24FNO3
